US07265149B2
In analogy to the procedure described for example 2 e], 4-bromo-5-(tert-butyl-dimethyl-silanyloxymethyl)-1-methyl-3-(4-trifluoromethyl-phenyl)-1H-pyrazole was treated with tetrabutylammonium fluoride in THF to yield [4-bromo-2-methyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-yl]-methanol as yellow oil.

reactant | 4-bromo-5-(tert-butyl-dimethyl-silanyloxymethyl)-1-methyl-3-(4-trifluoromethyl-phenyl)-1H-pyrazole | BrC=1C(=NN(C1C(O[SiH2]C(C)(C)C)(C)C)C)C1=CC=C(C=C1)C(F)(F)F | C18H24BrF3N2OSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
product | [4-bromo-2-methyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-yl]-methanol | BrC1=C(N(N=C1C1=CC=C(C=C1)C(F)(F)F)C)CO | C12H10BrF3N2O
